US07569727B2
P1.2) A solution of 790 mg of 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-N-hydroxy-benzamidine in 20 ml of dimethylformamide is added dropwise in the course of 15 minutes at 0-5° C. to 80 mg of sodium hydride 55% in 10 ml of dimethylformamide. After 3 hours' stirring at 0-5° C., 256 mg of ethyl iodide are added. After being stirred for 16 hours at room temperature the reaction mixture is poured into water and extracted with ethyl acetate. After concentration of the organic phases and purification over silica gel, 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-N-ethoxy-benzamidine is obtained.

reactant | 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-N-hydroxy-benzamidine | 790 mg | ClC1=C(OCCCOC2=CC=C(C(=N)NO)C=C2)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C19H18Cl4N2O4
reactant | sodium hydride | 80 mg | [H-].[Na+]
reactant | ethyl iodide | 256 mg | C(C)I | C2H5I
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-N-ethoxy-benzamidine | ClC1=C(OCCCOC2=CC=C(C(=N)NOCC)C=C2)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C21H22Cl4N2O4
